US04138437
In a manner analogous to that of Example 10 stearyl alcohol was reacted with monomethylamine to yield methyl-distearylamine. In addition the reaction gas consisting of 100 l of hydrogen and 5 l of monomethylamine was circulated via a gas pump, and the amine while had been used up in the reaction was continuously added in doses via a mercury dipping pipe. The pressure in the apparatus was kept constant. After a continuous addition of 2 moles of stearyl alcohol (90 g/h) within 6 hours, the amine addition was stopped. 33.8 milliliters of water had separated. The reaction was completed by adding the calculated amount of stearyl alcohol. After distillation of the crude product, 4.1% of higher condensed by-products were left. The yield of methyldistearylamine was 92.4% with a degree of purity of the product of 98.5%. cl EXAMPLE 12

reactant | stearyl alcohol | C(CCCCCCCCCCCCCCCCC)O | C18H38O
reactant | monomethylamine | CN | CH5N
product | methyl-distearylamine | CN(CCCCCCCCCCCCCCCCCC)CCCCCCCCCCCCCCCCCC | C37H77N
